US07250418B2
Preparation of N-[(3R,4S)-4-ethoxypyrrolidin-3-yl]-3,6-diethyl-5-(4-methoxy-2-methylphenyl)pyrazin-2-amine
Following the procedure for the preparation of N-[(3R,4S)-4-ethoxypyrrolidin-3-yl]-3,6-diethyl-5-(6-methoxy-2-methylpyridin-3-yl)pyrazin-2-amine but substituting benzyl (3R,4S)-3-{[3,6-diethyl-5-(4-methoxy-2-methylphenyl)pyrazin-2-yl]amino}-4-ethoxypyrrolidine-1-carboxylate provided the title compound as an amber oil. 1H NMR (CDCl3) δ 1.12, 1.30, 2.12, 2.46, 2.72, 2.92–3.14, 3.36, 3.52, 3.63–3.82, 3.84, 4.18–4.24, 4.71–4.86, 5.11–5.22, 6.78, 6.83, 7.09; IR (diffuse reflectance) 2970 (s), 2933 (s), 2875, 2835, 2493 (b), 2467 (b), 2439 (b), 2353, 2338 (w), 1568 (s), 1563, 1482 (s), 1397 (s), 1393, 1242 (s) cm−1 HRMS (ESI) calcd for C22H32N4O2+H1 385.2603. found 385.2603.

reactant | N-[(3R,4S)-4-ethoxypyrrolidin-3-yl]-3,6-diethyl-5-(6-methoxy-2-methylpyridin-3-yl)pyrazin-2-amine | C(C)O[C@@H]1[C@@H](CNC1)NC1=NC(=C(N=C1CC)C=1C(=NC(=CC1)OC)C)CC | C21H31N5O2
reactant | benzyl (3R,4S)-3-{[3,6-diethyl-5-(4-methoxy-2-methylphenyl)pyrazin-2-yl]amino}-4-ethoxypyrrolidine-1-carboxylate | C(C)C=1C(=NC(=C(N1)C1=C(C=C(C=C1)OC)C)CC)N[C@@H]1CN(C[C@@H]1OCC)C(=O)OCC1=CC=CC=C1 | C30H38N4O4
product | N-[(3R,4S)-4-ethoxypyrrolidin-3-yl]-3,6-diethyl-5-(4-methoxy-2-methylphenyl)pyrazin-2-amine | C(C)O[C@@H]1[C@@H](CNC1)NC1=NC(=C(N=C1CC)C1=C(C=C(C=C1)OC)C)CC | C22H32N4O2
